* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 8.43394329304044
Fd1_1 0 s1 V1 421.6971646520219
Gr1_1_1 0 s1 x1_a1 0 -5.4029155224753446e+17
Gr2_re_1_1 0 s1 x2_re_a1 0 -2.5008725262568074e+18
Gr2_im_1_1 0 s1 x2_im_a1 0 -6.526300109789283e+17
Gr3_re_1_1 0 s1 x3_re_a1 0 3.708120178541267e+18
Gr3_im_1_1 0 s1 x3_im_a1 0 -1.877692093388038e+19
Gr4_re_1_1 0 s1 x4_re_a1 0 -1.902471942323819e+19
Gr4_im_1_1 0 s1 x4_im_a1 0 2.43661924756461e+19
Gr5_re_1_1 0 s1 x5_re_a1 0 1.7683295413762546e+19
Gr5_im_1_1 0 s1 x5_im_a1 0 9.088023932030139e+16
Gr6_re_1_1 0 s1 x6_re_a1 0 2.3444153487537216e+17
Gr6_im_1_1 0 s1 x6_im_a1 0 4.514930883275122e+16
Gr7_re_1_1 0 s1 x7_re_a1 0 -9.69967863472114e+16
Gr7_im_1_1 0 s1 x7_im_a1 0 2.259221445683654e+16
Gr8_1_1 0 s1 x8_a1 0 -6502653711929379.0
Gd1_2 0 s1 p2 0 2.2481130166440684
Fd1_2 0 s1 V2 112.40565083220342
Gr1_1_2 0 s1 x1_a2 0 -1.4401775340408475e+17
Gr2_re_1_2 0 s1 x2_re_a2 0 -6.790529384255261e+17
Gr2_im_1_2 0 s1 x2_im_a2 0 -1.7722906372815568e+17
Gr3_re_1_2 0 s1 x3_re_a2 0 1.0069861509810689e+18
Gr3_im_1_2 0 s1 x3_im_a2 0 -5.098070137711933e+18
Gr4_re_1_2 0 s1 x4_re_a2 0 -5.165422938940172e+18
Gr4_im_1_2 0 s1 x4_im_a2 0 6.615575760188732e+18
Gr5_re_1_2 0 s1 x5_re_a2 0 4.801061098660382e+18
Gr5_im_1_2 0 s1 x5_im_a2 0 2.4674312530540496e+16
Gr6_re_1_2 0 s1 x6_re_a2 0 6.365101033311131e+16
Gr6_im_1_2 0 s1 x6_im_a2 0 1.2258200000060228e+16
Gr7_re_1_2 0 s1 x7_re_a2 0 -2.6335014652921836e+16
Gr7_im_1_2 0 s1 x7_im_a2 0 6133867604596192.0
Gr8_1_2 0 s1 x8_a2 0 -1765493946352716.0
Gd1_3 0 s1 p3 0 0.42000347548370226
Fd1_3 0 s1 V3 21.000173774185114
Gr1_1_3 0 s1 x1_a3 0 -2.690606351692817e+16
Gr2_re_1_3 0 s1 x2_re_a3 0 -1.2422493760972483e+17
Gr2_im_1_3 0 s1 x2_im_a3 0 -3.241617691711933e+16
Gr3_re_1_3 0 s1 x3_re_a3 0 1.8418251852352592e+17
Gr3_im_1_3 0 s1 x3_im_a3 0 -9.327292615823428e+17
Gr4_re_1_3 0 s1 x4_re_a3 0 -9.450343899666317e+17
Gr4_im_1_3 0 s1 x4_im_a3 0 1.2103736008759363e+18
Gr5_re_1_3 0 s1 x5_re_a3 0 8.78411606046185e+17
Gr5_im_1_3 0 s1 x5_im_a3 0 4514439661992467.0
Gr6_re_1_3 0 s1 x6_re_a3 0 1.1645828995197268e+16
Gr6_im_1_3 0 s1 x6_im_a3 0 2242773942503584.5
Gr7_re_1_3 0 s1 x7_re_a3 0 -4818274603778156.0
Gr7_im_1_3 0 s1 x7_im_a3 0 1122259266726084.0
Gr8_1_3 0 s1 x8_a3 0 -323016700730622.56
Gd1_4 0 s1 p4 0 0.0009412003176090134
Fd1_4 0 s1 V4 0.04706001588045067
Gr1_1_4 0 s1 x1_a4 0 -60285083019200.97
Gr2_re_1_4 0 s1 x2_re_a4 0 391810816750373.6
Gr2_im_1_4 0 s1 x2_im_a4 0 103872384628837.81
Gr3_re_1_4 0 s1 x3_re_a4 0 -590298407769611.6
Gr3_im_1_4 0 s1 x3_im_a4 0 2916210860729777.0
Gr4_re_1_4 0 s1 x4_re_a4 0 2959807850986331.0
Gr4_im_1_4 0 s1 x4_im_a4 0 -3782789505135648.5
Gr5_re_1_4 0 s1 x5_re_a4 0 -2740568293598298.0
Gr5_im_1_4 0 s1 x5_im_a4 0 -14090760160062.855
Gr6_re_1_4 0 s1 x6_re_a4 0 -36301036773126.49
Gr6_im_1_4 0 s1 x6_im_a4 0 -7000285049073.673
Gr7_re_1_4 0 s1 x7_re_a4 0 15041678841541.16
Gr7_im_1_4 0 s1 x7_im_a4 0 -3502864477850.966
Gr8_1_4 0 s1 x8_a4 0 1008222403041.7452
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.2078084122551544e-16
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.238987493410432e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 274323785880.1682
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -274323785880.1682
Rp2_im_im_a1 0 x2_im_a1 5.238987493410432e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.519546502509601e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 164919991154.68314
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -164919991154.68314
Rp3_im_im_a1 0 x3_im_a1 1.519546502509601e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.156314279999075e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 127013821966.6532
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -127013821966.6532
Rp4_im_im_a1 0 x4_im_a1 1.156314279999075e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.0940689804846285e-08
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 1601842988.421195
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -1601842988.421195
Rp5_im_im_a1 0 x5_im_a1 2.0940689804846285e-08
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.726326584635902e-08
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 791508352.1251651
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -791508352.1251651
Rp6_im_im_a1 0 x6_im_a1 1.726326584635902e-08
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.621417204131322e-08
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 388294833.953537
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -388294833.953537
Rp7_im_im_a1 0 x7_im_a1 1.621417204131322e-08
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.7328299889081953e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 2.232090771370307
Fd2_1 0 s2 V1 111.60453856851537
Gr1_2_1 0 s2 x1_a1 0 -1.4299134438594448e+17
Gr2_re_2_1 0 s2 x2_re_a1 0 -6.743979829044897e+17
Gr2_im_2_1 0 s2 x2_im_a1 0 -1.7601460120569837e+17
Gr3_re_2_1 0 s2 x3_re_a1 0 1.000085638795077e+18
Gr3_im_2_1 0 s2 x3_im_a1 0 -5.06311727279762e+18
Gr4_re_2_1 0 s2 x4_re_a1 0 -5.130010164366151e+18
Gr4_im_2_1 0 s2 x4_im_a1 0 6.570218418140776e+18
Gr5_re_2_1 0 s2 x5_re_a1 0 4.768143659972121e+18
Gr5_im_2_1 0 s2 x5_im_a1 0 2.4505140507999092e+16
Gr6_re_2_1 0 s2 x6_re_a1 0 6.321458971263519e+16
Gr6_im_2_1 0 s2 x6_im_a1 0 1.2174155327721776e+16
Gr7_re_2_1 0 s2 x7_re_a1 0 -2.6154457401318224e+16
Gr7_im_2_1 0 s2 x7_im_a1 0 6091812580650121.0
Gr8_2_1 0 s2 x8_a1 0 -1753389367429136.0
Gd2_2 0 s2 p2 0 -0.2873835682638795
Fd2_2 0 s2 V2 -14.369178413193977
Gr1_2_2 0 s2 x1_a2 0 1.841074581477424e+16
Gr2_re_2_2 0 s2 x2_re_a2 0 1.337760269597415e+17
Gr2_im_2_2 0 s2 x2_im_a2 0 3.4999427495518972e+16
Gr3_re_2_2 0 s2 x3_re_a2 0 -1.9887622740638688e+17
Gr3_im_2_2 0 s2 x3_im_a2 0 1.003004005845301e+18
Gr4_re_2_2 0 s2 x4_re_a2 0 1.0165292265065902e+18
Gr4_im_2_2 0 s2 x4_im_a2 0 -1.301478884995926e+18
Gr5_re_2_2 0 s2 x5_re_a2 0 -9.442665401039215e+17
Gr5_im_2_2 0 s2 x5_im_a2 0 -4853243412921338.0
Gr6_re_2_2 0 s2 x6_re_a2 0 -1.2517009493438584e+16
Gr6_im_2_2 0 s2 x6_im_a2 0 -2411091342963150.5
Gr7_re_2_2 0 s2 x7_re_a2 0 5180030075879196.0
Gr7_im_2_2 0 s2 x7_im_a2 0 -1206483386388655.8
Gr8_2_2 0 s2 x8_a2 0 347258885954933.8
Gd2_3 0 s2 p3 0 0.0030973905530407536
Fd2_3 0 s2 V3 0.1548695276520377
Gr1_2_3 0 s2 x1_a3 0 -198411502083234.12
Gr2_re_2_3 0 s2 x2_re_a3 0 -74101359638770.92
Gr2_im_2_3 0 s2 x2_im_a3 0 -17352238837504.367
Gr3_re_2_3 0 s2 x3_re_a3 0 98457504907158.98
Gr3_im_2_3 0 s2 x3_im_a3 0 -587543948435412.1
Gr4_re_2_3 0 s2 x4_re_a3 0 -589043423671258.2
Gr4_im_2_3 0 s2 x4_im_a3 0 764242650915583.1
Gr5_re_2_3 0 s2 x5_re_a3 0 560382938262613.7
Gr5_im_2_3 0 s2 x5_im_a3 0 2872553125136.367
Gr6_re_2_3 0 s2 x6_re_a3 0 7469622177636.58
Gr6_im_2_3 0 s2 x6_im_a3 0 1427091299751.9478
Gr7_re_2_3 0 s2 x7_re_a3 0 -3062751870118.4653
Gr7_im_2_3 0 s2 x7_im_a3 0 714101527731.3538
Gr8_2_3 0 s2 x8_a3 0 -205534491403.98654
Gd2_4 0 s2 p4 0 0.4188840393796808
Fd2_4 0 s2 V4 20.94420196898404
Gr1_2_4 0 s2 x1_a4 0 -2.683438888134508e+16
Gr2_re_2_4 0 s2 x2_re_a4 0 -1.2655810578916486e+17
Gr2_im_2_4 0 s2 x2_im_a4 0 -3.3031289299877384e+16
Gr3_re_2_4 0 s2 x3_re_a4 0 1.8767789320717427e+17
Gr3_im_2_4 0 s2 x3_im_a4 0 -9.501490330419391e+17
Gr4_re_2_4 0 s2 x4_re_a4 0 -9.627037602668595e+17
Gr4_im_2_4 0 s2 x4_im_a4 0 1.2329729834172972e+18
Gr5_re_2_4 0 s2 x5_re_a4 0 8.947946243513876e+17
Gr5_im_2_4 0 s2 x5_im_a4 0 4598660789789640.0
Gr6_re_2_4 0 s2 x6_re_a4 0 1.1862905113973182e+16
Gr6_im_2_4 0 s2 x6_im_a4 0 2284614983316477.0
Gr7_re_2_4 0 s2 x7_re_a4 0 -4908173972379654.0
Gr7_im_2_4 0 s2 x7_im_a4 0 1143196057891693.2
Gr8_2_4 0 s2 x8_a4 0 -329042888954945.75
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.2078084122551544e-16
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.238987493410432e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 274323785880.1682
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -274323785880.1682
Rp2_im_im_a2 0 x2_im_a2 5.238987493410432e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.519546502509601e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 164919991154.68314
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -164919991154.68314
Rp3_im_im_a2 0 x3_im_a2 1.519546502509601e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.156314279999075e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 127013821966.6532
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -127013821966.6532
Rp4_im_im_a2 0 x4_im_a2 1.156314279999075e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.0940689804846285e-08
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 1601842988.421195
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -1601842988.421195
Rp5_im_im_a2 0 x5_im_a2 2.0940689804846285e-08
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.726326584635902e-08
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 791508352.1251651
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -791508352.1251651
Rp6_im_im_a2 0 x6_im_a2 1.726326584635902e-08
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.621417204131322e-08
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 388294833.953537
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -388294833.953537
Rp7_im_im_a2 0 x7_im_a2 1.621417204131322e-08
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.7328299889081953e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 0.41773044484403515
Fd3_1 0 s3 V1 20.88652224220176
Gr1_3_1 0 s3 x1_a1 0 -2.676044962088444e+16
Gr2_re_3_1 0 s3 x2_re_a1 0 -1.2355021819183838e+17
Gr2_im_3_1 0 s3 x2_im_a1 0 -3.2240108488819996e+16
Gr3_re_3_1 0 s3 x3_re_a1 0 1.8318211713459978e+17
Gr3_im_3_1 0 s3 x3_im_a1 0 -9.276633936504768e+17
Gr4_re_3_1 0 s3 x4_re_a1 0 -9.399017180204812e+17
Gr4_im_3_1 0 s3 x4_im_a1 0 1.2037997929913185e+18
Gr5_re_3_1 0 s3 x5_re_a1 0 8.73640815947446e+17
Gr5_im_3_1 0 s3 x5_im_a1 0 4489921058958578.5
Gr6_re_3_1 0 s3 x6_re_a1 0 1.1582578570990816e+16
Gr6_im_3_1 0 s3 x6_im_a1 0 2230593098915728.5
Gr7_re_3_1 0 s3 x7_re_a1 0 -4792105836346192.0
Gr7_im_3_1 0 s3 x7_im_a1 0 1116164107403056.4
Gr8_3_1 0 s3 x8_a1 0 -321262348147821.56
Gd3_2 0 s3 p2 0 0.002856859062237404
Fd3_2 0 s3 V2 0.1428429531118702
Gr1_3_2 0 s3 x1_a2 0 -183002682353669.03
Gr2_re_3_2 0 s3 x2_re_a2 0 -5845551265540.719
Gr2_im_3_2 0 s3 x2_im_a2 0 450197606459.49475
Gr3_re_3_2 0 s3 x3_re_a2 0 -2702796028457.4565
Gr3_im_3_2 0 s3 x3_im_a2 0 -75038376578056.56
Gr4_re_3_2 0 s3 x4_re_a2 0 -69831973078585.89
Gr4_im_3_2 0 s3 x4_im_a2 0 99178890115152.12
Gr5_re_3_2 0 s3 x5_re_a2 0 77738556956663.97
Gr5_im_3_2 0 s3 x5_im_a2 0 392144844272.29926
Gr6_re_3_2 0 s3 x6_re_a2 0 1070501166956.2635
Gr6_im_3_2 0 s3 x6_im_a2 0 194824303667.08502
Gr7_re_3_2 0 s3 x7_re_a2 0 -415428838184.4692
Gr7_im_3_2 0 s3 x7_im_a2 0 97488760953.30894
Gr8_3_2 0 s3 x8_a2 0 -28056594876.17847
Gd3_3 0 s3 p3 0 6.5396460977418505
Fd3_3 0 s3 V3 326.98230488709254
Gr1_3_3 0 s3 x1_a3 0 -4.189400545282258e+17
Gr2_re_3_3 0 s3 x2_re_a3 0 -1.9452189687432497e+18
Gr2_im_3_3 0 s3 x2_im_a3 0 -5.076094020765876e+17
Gr3_re_3_3 0 s3 x3_re_a3 0 2.884198191095644e+18
Gr3_im_3_3 0 s3 x3_im_a3 0 -1.4604683344160567e+19
Gr4_re_3_3 0 s3 x4_re_a3 0 -1.4797246887095032e+19
Gr4_im_3_3 0 s3 x4_im_a3 0 1.8951996979451073e+19
Gr5_re_3_3 0 s3 x5_re_a3 0 1.375390544541695e+19
Gr5_im_3_3 0 s3 x5_im_a3 0 7.0685660749008776e+16
Gr6_re_3_3 0 s3 x6_re_a3 0 1.8234734033042026e+17
Gr6_im_3_3 0 s3 x6_im_a3 0 3.511664078156456e+16
Gr7_re_3_3 0 s3 x7_re_a3 0 -7.544297679283134e+16
Gr7_im_3_3 0 s3 x7_im_a3 0 1.7571978387136398e+16
Gr8_3_3 0 s3 x8_a3 0 -5057693175540122.0
Gd3_4 0 s3 p4 0 -0.0005688784918012368
Fd3_4 0 s3 V4 -0.028443924590061842
Gr1_3_4 0 s3 x1_a4 0 36442599476919.914
Gr2_re_3_4 0 s3 x2_re_a4 0 124501930836997.81
Gr2_im_3_4 0 s3 x2_im_a4 0 32387230577624.082
Gr3_re_3_4 0 s3 x3_re_a4 0 -184026926940360.9
Gr3_im_3_4 0 s3 x3_im_a4 0 936252926181854.0
Gr4_re_3_4 0 s3 x4_re_a4 0 948255439521655.0
Gr4_im_3_4 0 s3 x4_im_a4 0 -1215028850645376.0
Gr5_re_3_4 0 s3 x5_re_a4 0 -882034916697898.8
Gr5_im_3_4 0 s3 x5_im_a4 0 -4532657401547.388
Gr6_re_3_4 0 s3 x6_re_a4 0 -11696045858643.693
Gr6_im_3_4 0 s3 x6_im_a4 0 -2251824159287.8037
Gr7_re_3_4 0 s3 x7_re_a4 0 4837549205791.844
Gr7_im_3_4 0 s3 x7_im_a4 0 -1126787907514.5415
Gr8_3_4 0 s3 x8_a4 0 324320859956.1506
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 2.2078084122551544e-16
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 5.238987493410432e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 274323785880.1682
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -274323785880.1682
Rp2_im_im_a3 0 x2_im_a3 5.238987493410432e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 1.519546502509601e-11
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 164919991154.68314
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -164919991154.68314
Rp3_im_im_a3 0 x3_im_a3 1.519546502509601e-11
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 1.156314279999075e-09
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 127013821966.6532
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -127013821966.6532
Rp4_im_im_a3 0 x4_im_a3 1.156314279999075e-09
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 2.0940689804846285e-08
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 1601842988.421195
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -1601842988.421195
Rp5_im_im_a3 0 x5_im_a3 2.0940689804846285e-08
Cx6_re_a3 x6_re_a3 0 1.0
Gx6_re_a3 0 x6_re_a3 p3 0 0.1414213562373095
Fx6_re_a3 0 x6_re_a3 V3 7.0710678118654755
Rp6_re_re_a3 0 x6_re_a3 1.726326584635902e-08
Gp6_re_im_a3 0 x6_re_a3 x6_im_a3 0 791508352.1251651
Cx6_im_a3 x6_im_a3 0 1.0
Gp6_im_re_a3 0 x6_im_a3 x6_re_a3 0 -791508352.1251651
Rp6_im_im_a3 0 x6_im_a3 1.726326584635902e-08
Cx7_re_a3 x7_re_a3 0 1.0
Gx7_re_a3 0 x7_re_a3 p3 0 0.1414213562373095
Fx7_re_a3 0 x7_re_a3 V3 7.0710678118654755
Rp7_re_re_a3 0 x7_re_a3 1.621417204131322e-08
Gp7_re_im_a3 0 x7_re_a3 x7_im_a3 0 388294833.953537
Cx7_im_a3 x7_im_a3 0 1.0
Gp7_im_re_a3 0 x7_im_a3 x7_re_a3 0 -388294833.953537
Rp7_im_im_a3 0 x7_im_a3 1.621417204131322e-08
Cx8_a3 x8_a3 0 1.0
Gx8_a3 0 x8_a3 p3 0 0.07071067811865475
Fx8_a3 0 x8_a3 V3 3.5355339059327378
Rp8_a3 0 x8_a3 1.7328299889081953e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 0.0008918015438384868
Fd4_1 0 s4 V1 0.04459007719192434
Gr1_4_1 0 s4 x1_a1 0 -57120520846412.74
Gr2_re_4_1 0 s4 x2_re_a1 0 406445847730949.25
Gr2_im_4_1 0 s4 x2_im_a1 0 107691232612586.83
Gr3_re_4_1 0 s4 x3_re_a1 0 -611996836665784.1
Gr3_im_4_1 0 s4 x3_im_a1 0 3026093463175010.5
Gr4_re_4_1 0 s4 x4_re_a1 0 3071138628530267.0
Gr4_im_4_1 0 s4 x4_im_a1 0 -3925380550752352.0
Gr5_re_4_1 0 s4 x5_re_a1 0 -2844050463377701.5
Gr5_im_4_1 0 s4 x5_im_a1 0 -14622586958134.068
Gr6_re_4_1 0 s4 x6_re_a1 0 -37672992746966.26
Gr6_im_4_1 0 s4 x6_im_a1 0 -7264496636914.969
Gr7_re_4_1 0 s4 x7_re_a1 0 15609298562039.875
Gr7_im_4_1 0 s4 x7_im_a1 0 -3635073032049.554
Gr8_4_1 0 s4 x8_a1 0 1046275621428.1362
Gd4_2 0 s4 p2 0 0.421898357270228
Fd4_2 0 s4 V2 21.0949178635114
Gr1_4_2 0 s4 x1_a2 0 -2.702749059783621e+16
Gr2_re_4_2 0 s4 x2_re_a2 0 -1.2743383402506211e+17
Gr2_im_4_2 0 s4 x2_im_a2 0 -3.3259763792149012e+16
Gr3_re_4_2 0 s4 x3_re_a2 0 1.889760734081872e+17
Gr3_im_4_2 0 s4 x3_im_a2 0 -9.567246515004045e+17
Gr4_re_4_2 0 s4 x4_re_a2 0 -9.693658999840275e+17
Gr4_im_4_2 0 s4 x4_im_a2 0 1.2415059771090534e+18
Gr5_re_4_2 0 s4 x5_re_a2 0 9.009873215922744e+17
Gr5_im_4_2 0 s4 x5_im_a2 0 4630486810667786.0
Gr6_re_4_2 0 s4 x6_re_a2 0 1.1945008127509028e+16
Gr6_im_4_2 0 s4 x6_im_a2 0 2300426152651850.5
Gr7_re_4_2 0 s4 x7_re_a2 0 -4942141875095839.0
Gr7_im_4_2 0 s4 x7_im_a2 0 1151107792038450.0
Gr8_4_2 0 s4 x8_a2 0 -331320101127649.44
Gd4_3 0 s4 p3 0 -0.0008222459954019801
Fd4_3 0 s4 V3 -0.041112299770099
Gr1_4_3 0 s4 x1_a3 0 52673723206034.21
Gr2_re_4_3 0 s4 x2_re_a3 0 199936862640333.3
Gr2_im_4_3 0 s4 x2_im_a3 0 52072502657082.22
Gr3_re_4_3 0 s4 x3_re_a3 0 -295876953865793.3
Gr3_im_4_3 0 s4 x3_im_a3 0 1502613975392552.0
Gr4_re_4_3 0 s4 x4_re_a3 0 1522085476591103.8
Gr4_im_4_3 0 s4 x4_im_a3 0 -1949975982988519.8
Gr5_re_4_3 0 s4 x5_re_a3 0 -1415402768358432.2
Gr5_im_4_3 0 s4 x5_im_a3 0 -7273804713024.355
Gr6_re_4_3 0 s4 x6_re_a3 0 -18767353058469.16
Gr6_im_4_3 0 s4 x6_im_a3 0 -3613626317730.003
Gr7_re_4_3 0 s4 x7_re_a3 0 7763183040531.111
Gr7_im_4_3 0 s4 x7_im_a3 0 -1808218635524.3647
Gr8_4_3 0 s4 x8_a3 0 520455151324.458
Gd4_4 0 s4 p4 0 8.409545653232705
Fd4_4 0 s4 V4 420.4772826616353
Gr1_4_4 0 s4 x1_a4 0 -5.387286568906663e+17
Gr2_re_4_4 0 s4 x2_re_a4 0 -2.497112683265734e+18
Gr2_im_4_4 0 s4 x2_im_a4 0 -6.516198802907295e+17
Gr3_re_4_4 0 s4 x3_re_a4 0 3.7024417383594916e+18
Gr3_im_4_4 0 s4 x3_im_a4 0 -1.874855504395748e+19
Gr4_re_4_4 0 s4 x4_re_a4 0 -1.899576448112344e+19
Gr4_im_4_4 0 s4 x4_im_a4 0 2.4329371745606873e+19
Gr5_re_4_4 0 s4 x5_re_a4 0 1.7656461266342466e+19
Gr5_im_4_4 0 s4 x5_im_a4 0 9.074212606332154e+16
Gr6_re_4_4 0 s4 x6_re_a4 0 2.340868781144102e+17
Gr6_im_4_4 0 s4 x6_im_a4 0 4.50806940956239e+16
Gr7_re_4_4 0 s4 x7_re_a4 0 -9.684929073650838e+16
Gr7_im_4_4 0 s4 x7_im_a4 0 2.2557880394269904e+16
Gr8_4_4 0 s4 x8_a4 0 -6492771344367458.0
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 2.2078084122551544e-16
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 5.238987493410432e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 274323785880.1682
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -274323785880.1682
Rp2_im_im_a4 0 x2_im_a4 5.238987493410432e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 1.519546502509601e-11
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 164919991154.68314
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -164919991154.68314
Rp3_im_im_a4 0 x3_im_a4 1.519546502509601e-11
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 1.156314279999075e-09
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 127013821966.6532
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -127013821966.6532
Rp4_im_im_a4 0 x4_im_a4 1.156314279999075e-09
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 2.0940689804846285e-08
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 1601842988.421195
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -1601842988.421195
Rp5_im_im_a4 0 x5_im_a4 2.0940689804846285e-08
Cx6_re_a4 x6_re_a4 0 1.0
Gx6_re_a4 0 x6_re_a4 p4 0 0.1414213562373095
Fx6_re_a4 0 x6_re_a4 V4 7.0710678118654755
Rp6_re_re_a4 0 x6_re_a4 1.726326584635902e-08
Gp6_re_im_a4 0 x6_re_a4 x6_im_a4 0 791508352.1251651
Cx6_im_a4 x6_im_a4 0 1.0
Gp6_im_re_a4 0 x6_im_a4 x6_re_a4 0 -791508352.1251651
Rp6_im_im_a4 0 x6_im_a4 1.726326584635902e-08
Cx7_re_a4 x7_re_a4 0 1.0
Gx7_re_a4 0 x7_re_a4 p4 0 0.1414213562373095
Fx7_re_a4 0 x7_re_a4 V4 7.0710678118654755
Rp7_re_re_a4 0 x7_re_a4 1.621417204131322e-08
Gp7_re_im_a4 0 x7_re_a4 x7_im_a4 0 388294833.953537
Cx7_im_a4 x7_im_a4 0 1.0
Gp7_im_re_a4 0 x7_im_a4 x7_re_a4 0 -388294833.953537
Rp7_im_im_a4 0 x7_im_a4 1.621417204131322e-08
Cx8_a4 x8_a4 0 1.0
Gx8_a4 0 x8_a4 p4 0 0.07071067811865475
Fx8_a4 0 x8_a4 V4 3.5355339059327378
Rp8_a4 0 x8_a4 1.7328299889081953e-08
.ENDS s_equivalent
